US07405210B2
Preparation 100: 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [1-(S)-(tert-butyldimethylsilanyloxymethyl)-2-(S)-hydroxy-2-phenylethyl]amide
To a solution of 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (Preparation 18, 520 mg, 2.65 mmol) and 2-amino-3-(tert-butyldimethylsilanyloxy)-1-phenylpropan-1-ol (Preparation 99, 780 mg, 2.77 mmol) in DMF (15 mL) was added HOBt (411 mg, 2.68 mmol), DIPEA (0.96 mL, 5.51 mmol) and EDCI (589 mg, 3.07 mmol). After stirring at rt for 12 h the mixture was added to diluted brine (150 mL, water/brine:1/1). Extraction with ethyl acetate (4×50 mL), washing of the combined extracts with diluted hydrochloric acid (1M, 50 ml), diluted aqueous sodium hydroxide solution (1M, 50 ml) and brine (50 mL) followed by drying (MgSO4) gave after concentration a residue which was purified by flash chromatography on silica gel (eluent:hexane/ethyl acetate: 50/50). The title compound was obtained as colourless oil. δH (CD3OD): 0.00, 0.01 (6H, 2s), 0.84 (9H, s), 3.60 (1H, dd), 3.84 (1H, dd), 4.33 (1H, ddd), 4.98 (1H, d), 7.05 (1H, s), 7.12–7.37 (5H, 3m), 7.60 (1H, s), 8.49 (11H, s); m/z (ES+)=460.36 [M+H]+; RT=4.16 min.

reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | 2.65 mmol, 520 mg | ClC=1C=C2C(=CN1)NC(=C2)C(=O)O | C8H5ClN2O2
reactant | 2-amino-3-(tert-butyldimethylsilanyloxy)-1-phenylpropan-1-ol | 2.77 mmol, 780 mg | NC(C(O)C1=CC=CC=C1)CO[Si](C)(C)C(C)(C)C | C15H27NO2Si
reactant | HOBt | 2.68 mmol, 411 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 5.51 mmol, 0.96 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 3.07 mmol, 589 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | brine | 150 mL | [Cl-].[Na+].O
product | 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [1-(S)-(tert-butyldimethylsilanyloxymethyl)-2-(S)-hydroxy-2-phenylethyl]amide | [Si](C)(C)(C(C)(C)C)OC[C@@H]([C@H](C1=CC=CC=C1)O)NC(=O)C1=CC=2C(=CN=C(C2)Cl)N1 | C23H30ClN3O3Si
